* Z:\mnt\design.r\spice\examples\3414.asc
L1 N003 OUT .47µ
R1 OUT N006 392K
V1 IN 0 5
R2 N006 N008 110K
R3 N007 0 294K
R4 N005 N004 13K
C1 OUT 0 22µ
C2 N004 0 470p
R5 IN N001 10K
C3 N002 0 1000p
XU1 N007 N008 0 N003 0 IN IN N001 N006 N005 N002 LTC3414
R6 N008 0 75K
R7 IN N002 2.2Meg
Rload OUT 0 1
.tran 1m startup
.lib LTC3414.sub
.backanno
.end
